* Neuron Testbench — Run All Tests
* Individual test files: test_forward.spice, test_backward.spice,
*   test_impedance.spice, test_gradient.spice, test_integration.spice

.include testbench.spice

* Backward weight update cells — own bias infrastructure
R_bk_tb_bias_top vcc bk_tb_bias_raw 4.7k
R_bk_tb_bias_bot bk_tb_bias_raw vee 15k
Q_bk_tb_bias_buf vcc bk_tb_bias_raw w_bias_bk_tb NPN_AN
R_bk_tb_bias_load w_bias_bk_tb vee 20k

R_bk_tb_tail_ref vcc bk_tb_tail_ref_c 4.65k
Q_bk_tb_tail_ref bk_tb_tail_ref_c bk_tb_tail_ref_c vee NPN_AN

R_bk_tb_ref3_top vcc bk_tb_ref3_raw 2.6k
R_bk_tb_ref3_bot bk_tb_ref3_raw vee 13k
Q_bk_tb_ref3_buf vcc bk_tb_ref3_raw bk_tb_ref3 NPN_AN
R_bk_tb_ref3_load bk_tb_ref3 vee 10k

X_bk1 vin1 err_in bk1_out vcc vee w_bias_bk_tb bk_tb_tail_ref_c bk_tb_ref3 bk_mult
C_couple_bk1 bk1_out bk_ac1 1u
R_inject_bk1 bk_ac1 w1_node 960k

X_bk2 vin2 err_in bk2_out vcc vee w_bias_bk_tb bk_tb_tail_ref_c bk_tb_ref3 bk_mult
C_couple_bk2 bk2_out bk_ac2 1u
R_inject_bk2 bk_ac2 w2_node 960k

.ic V(bk_ac1)=0.7 V(bk_ac2)=-0.4

.control
set noaskquit

echo "============================================"
echo "Test 1: DC Operating Point"
echo "============================================"
alter Vin1 DC = 0.5
alter Vin2 DC = 0.3
alter I_err DC = 0
op
print V(vout) V(w1_node) V(w2_node)

echo "============================================"
echo "Test 2: DC Sweep Vin1 (-1 to +1)"
echo "============================================"
alter Vin2 DC = 0.3
dc Vin1 -1 1 0.02
wrdata neuron_dc_sweep.txt V(vout)
meas DC vout_n1 FIND V(vout) AT=-1
meas DC vout_p1 FIND V(vout) AT=1
let slope = (vout_p1 - vout_n1) / 2
echo "Slope (expect ~0.636):"
print slope

echo "============================================"
echo "Test 3: Transient Forward"
echo "============================================"
alter Vin1 DC = 0
alter @Vin1[sin] = [ 0 0.8 1k 0 0 0 ]
alter Vin2 DC = 0
alter @Vin2[sin] = [ 0 0.5 1.7k 0 0 0 ]
alter I_err DC = 0
tran 1u 5m UIC
wrdata neuron_fwd_transient.txt V(vin1) V(vin2) V(vout)
meas TRAN vout_pk MAX V(vout)
meas TRAN vout_min MIN V(vout)
print vout_pk vout_min

echo "============================================"
echo "Test 4: Backward Weight Update"
echo "============================================"
alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = -0.3
alter @Vin2[sin] = [ -0.3 0 0 0 0 0 ]
alter Verr DC = 0
alter @Verr[pulse] = [ 0 0.5 10m 100u 100u 50m 200m ]
tran 100u 150m UIC
wrdata neuron_backward.txt V(w1_node) V(w2_node) V(err_in) V(vout)
meas TRAN w1_pre FIND V(w1_node) AT=9m
meas TRAN w1_post FIND V(w1_node) AT=80m
meas TRAN w2_pre FIND V(w2_node) AT=9m
meas TRAN w2_post FIND V(w2_node) AT=80m
let dw1 = w1_post - w1_pre
let dw2 = w2_post - w2_pre
print dw1 dw2
let ratio = abs(dw1 / dw2)
echo "Ratio (expect ~1.67):"
print ratio

echo "============================================"
echo "Test 5: Output Impedance"
echo "============================================"
alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = 0.3
alter @Vin2[sin] = [ 0.3 0 0 0 0 0 ]
alter I_err DC = 0
alter Verr DC = 0
alter @Verr[pulse] = [ 0 0 0 0 0 0 0 ]
alter I_test DC = 0
alter @I_test[pulse] = [ 0 1m 1m 1n 1n 2m 4m ]
tran 1u 4m UIC
meas TRAN v_before FIND V(vout) AT=0.5m
meas TRAN v_after FIND V(vout) AT=2m
let z_out = (v_after - v_before) / 1m
echo "z_out (expect ~277):"
print z_out
alter I_test DC = 0
alter @I_test[pulse] = [ 0 0 0 0 0 0 0 ]

echo "============================================"
echo "Test 6: Chain Rule Static"
echo "============================================"
alter Vin1 DC = 0
alter @Vin1[sin] = [ 0 0 0 0 0 0 ]
alter Vin2 DC = 0
alter @Vin2[sin] = [ 0 0 0 0 0 0 ]
alter I_err DC = 1u
alter @I_err[pulse] = [ 0 0 0 0 0 0 0 ]
op
print I(Vin1) I(Vin2)
alter I_err DC = 0
op
echo "At I_err=0 (expect ~0):"
print I(Vin1) I(Vin2)

echo "============================================"
echo "Test 7: Gradient Linearity"
echo "============================================"
alter @I_err[pulse] = [ 0 0 0 0 0 0 0 ]
dc I_err -1.1u 1.1u 0.1u
wrdata neuron_grad_linearity.txt I(Vin1) I(Vin2)
meas DC ivin1_n1u FIND I(Vin1) AT=-1u
meas DC ivin1_p1u FIND I(Vin1) AT=1u
let grad_slope1 = (ivin1_p1u - ivin1_n1u) / 2e-6
meas DC ivin2_n1u FIND I(Vin2) AT=-1u
meas DC ivin2_p1u FIND I(Vin2) AT=1u
let grad_slope2 = (ivin2_p1u - ivin2_n1u) / 2e-6
echo "Gradient slopes dI(VIN)/dI_err (expect ~0.64, ~-0.36):"
print grad_slope1 grad_slope2

echo "============================================"
echo "Test 8: Forward/Error Isolation"
echo "============================================"
alter Vin1 DC = 0.5
alter @Vin1[sin] = [ 0.5 0 0 0 0 0 ]
alter Vin2 DC = 0.3
alter @Vin2[sin] = [ 0.3 0 0 0 0 0 ]
alter I_err DC = 0
alter @I_err[pulse] = [ 0 1u 50u 1n 1n 200u 400u ]
tran 1u 100u UIC
meas TRAN vout_before FIND V(vout) AT=25u
meas TRAN vout_after FIND V(vout) AT=75u
let vout_diff = vout_after - vout_before
echo "V(vout) change (expect < 1mV):"
print vout_diff

echo "============================================"
echo "Test 9: Forward + Gradient Coexistence"
echo "============================================"
alter Vin1 DC = 0
alter @Vin1[sin] = [ 0 0.8 1k 0 0 0 ]
alter Vin2 DC = 0
alter @Vin2[sin] = [ 0 0.5 1.7k 0 0 0 ]
alter I_err DC = 0
alter @I_err[pulse] = [ 0 1u 1m 100u 100u 2m 5m ]
tran 1u 5m UIC
wrdata neuron_fwd_grad.txt V(vin1) V(vin2) V(vout) I(Vin1) I(Vin2)
meas TRAN vout9_pk MAX V(vout)
meas TRAN vout9_min MIN V(vout)
echo "Swing (should match Test 3):"
print vout9_pk vout9_min

echo "============================================"
echo "Test 10: Multi-Config Gradient"
echo "============================================"
alter Vw1_prog DC = 1.0
alter Vw2_prog DC = 1.0
alter Vin1 DC = 0
alter @Vin1[sin] = [ 0 0 0 0 0 0 ]
alter Vin2 DC = 0
alter @Vin2[sin] = [ 0 0 0 0 0 0 ]
alter I_err DC = -1u
alter @I_err[pulse] = [ 0 0 0 0 0 0 0 ]
op
echo "Symmetric W=+1.0, I_err=-1uA:"
echo "I(Vin1) and I(Vin2) should be equal:"
print I(Vin1) I(Vin2)
alter Vw1_prog DC = 0.7
alter Vw2_prog DC = -0.4

echo ""
echo "============================================"
echo "All tests complete."
echo "============================================"

.endc
.end
